* SSM2210 SPICE Macro-model 4/90, Rev. A
* DFB / PMI
*
*
* Copyright 1990 by Analog Devices, Inc.
*
* Refer to "README.DOC" file for License Statement. Use of this model
* indicates your acceptance with the terms and provisions in the
License Statement.
*
* Node assignments
* C1
* | B1
* | | E1
* | | | E2
* | | | | B2
* | | | | | C2
* | | | | | |
.SUBCKT SSM2210 1 2 3 5 6 7
Q1 1 2 3 NMAT
Q2 7 6 5 NMAT
D1 3 2 DMAT1
D2 5 6 DMAT1
D3 4 3 DMAT1
D4 4 5 DMAT1
D5 4 1 DMAT2
D6 4 7 DMAT2
.MODEL DMAT1 D(IS=2E-16 RS=20)
.MODEL DMAT2 D(IS=1E-14 VJ=0.6 CJO=40P)
.MODEL NMAT NPN(BF=500 IS=6E-13 VAF=150 BR=0.5 VAR=7
+ RB=13 RC=10 RE=0.3 CJE=82P VJE=0.7 MJE=0.4 TF=0.3E-9
+ TR=5E-9 CJC=33P VJC=0.55 MJC=0.5 CJS=0 IKF=0.300 PTF=25)
.ENDS
